US07312236B2
2,4-Dichloro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide di-hydrochloride salt, isomer 1
Using a method similar to example 1, using 2,4-dichloro-benzoyl chloride (126 mg, 0.60 mmol) and 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine, isomer 1 (preparation 10, 100 mg, 0.46 mmol) provides the free base of the title compound as a colorless oil (120 mg, 67%): MS (ES): m/z=390.1 (M+H)+; 1H NMR (CDCl3): δ 8.90 (s, br, 1H), 8.20 (d, 1H), 7.73 (t, 1H), 7.57 (d, 1H), 7.45 (d, 1H), 7.28 (dd, 1H), 7.14 (d, 1H), 6.63 (m, 1H), 2.67 (m, 1H), 2.44 (m, 3H), 2.36 (s, 6H), 2.15 (m, 2H), 1.54 (m, 1H). Di-hydrochloride salt: Anal. cal'd for C20H21Cl2N3O.2HCl: C, 51.86; H, 5.00; N, 9.07. Found: C, 51.78; H, 5.04; N, 8.99.

reactant | 2,4-dichloro-benzoyl chloride | 0.60 mmol, 126 mg | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine | CN(C1CC=C(CC1)C1=CC=CC(=N1)N)C | C13H19N3
product | 2,4-Dichloro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide di-hydrochloride salt | 120 mg, 67% | Cl.Cl.ClC1=C(C(=O)NC2=NC(=CC=C2)C2=CCC(CC2)N(C)C)C=CC(=C1)Cl | InChI=1S/C20H21Cl2N3O.2ClH/c1-25(2)15-9-6-13(7-10-15)18-4-3-5-19(23-18)24-20(26)16-11-8-14(21)12-17(16)22;;/h3-6,8,11-12,15H,7,9-10H2,1-2H3,(H,23,24,26);2*1H
